US06815438B2
3-(3-Pyridyl)-3,7-diazabicyclo[3.3.0]octane (Compound A1):
Prepared by heating 3-fluoropyridine and 3.7-Diazabicyclo[3.3.0]octane in an autoclave in the absence of solvent at 180° C. for 24 hours. Workup-procedure A/B.

reactant | 3-fluoropyridine | FC=1C=NC=CC1 | C5H4FN
reactant | 3.7-Diazabicyclo[3.3.0]octane | C12CNCC2CNC1 | C6H12N2
product | 3-(3-Pyridyl)-3,7-diazabicyclo[3.3.0]octane | N1=CC(=CC=C1)N1CC2CNCC2C1 | C11H15N3
